US05424456
α-Allyl-α-isopropyl-2-methylbenzyl cyanide
To a solution of 362 g of sodium hydroxide in 362 ml of demineralized water 216.6 g of α-isopropyl-2-methylbenzyl cyanide and 6.4 g of tetrabutylammonium hydrogen sulfate were added, and the mixture was heated to 40° C. with intensive stirring. During 3hours 287 g of allylchloride was added. During, the addition and for further two hours the temperature of the reaction mixture was maintained at 40° C. and thereafter at 60° C. for additional three hours. After cooling to room temperature, the reaction mixture was diluted with 550 ml of water and the product was extracted into toluene. After washing with water until neutral pH and drying with anhydrous magnesium sulfate, the solvent was evaporated and the residue was distilled under diminished pressure to obtain 249 g (93%) of the desired compound, b.p. 122°-124 ° C./333 Pa.

reactant | sodium hydroxide | 362 g | [OH-].[Na+]
reactant | α-isopropyl-2-methylbenzyl cyanide | C(C)(C)C(C1=C(C=CC=C1)C)C#N | C12H15N
reactant | allylchloride | 287 g | C(C=C)Cl | C3H5Cl
solvent | water | 362 ml, 216.6 g | O | H2O
catalyst | tetrabutylammonium hydrogen sulfate | 6.4 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 550 ml | O | H2O
product | α-Allyl-α-isopropyl-2-methylbenzyl cyanide | 249 g, 93% | C(C=C)C(C1=C(C=CC=C1)C)(C(C)C)C#N | C15H19N
